US07307094B2
A mixture of 2-(4-chloro-2-methylphenyl)benzoxazole-4-carboxylic acid (59 mg, 0.21 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (79 mg, 0.41 mmol), 1-hydroxybenzotriazole (55 mg, 0.41 mmol) and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (72 mg, 0.26 mmol) in DMF (3 mL) was stirred at room temperature for 10 min, then triethylamine (0.11 mL, 0.82 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×20 mL). The combined organic layers were washed with water (2×20 mL), brine (2×20 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by preparative TLC (silica gel, 90:9:1 dichloromethane/methanol/concentrated ammonium hydroxide) to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-chloro-2-methylphenyl)benzoxazole-4-carboxamide (19 mg, 22%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.01 (br s, 1H), 8.22 (dd, J=7.8, 1.0 Hz, 1H), 8.18 (d, J=8.4 Hz, 1H), 7.71 (dd, J=8.1, 0.9 Hz, 1H), 7.49 (t, J=7.9 Hz, 1H), 7.43-7.36 (m, 2H), 4.67-4.60 (m, 1H), 3.25-3.15 (m, 2H), 2.88 (s, 3H), 2.70-2.55 (m, 2H), 2.48 (s, 3H), 2.10-2.00 (m, 3H), 1.65-1.40 (m, 3H), 1.20-1.10 (m, 2H); MS (ESI+) m/z 424 (M+H); HPLC 98.4% (AUC), tR=13.82 min.

reactant | 2-(4-chloro-2-methylphenyl)benzoxazole-4-carboxylic acid | 0.21 mmol, 59 mg | ClC1=CC(=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C15H10ClNO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.41 mmol, 79 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.41 mmol, 55 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.26 mmol, 72 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | triethylamine | 0.82 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-chloro-2-methylphenyl)benzoxazole-4-carboxamide | 19 mg, 22% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=C(C=C(C=C1)Cl)C | C24H26ClN3O2
